US04410461
Melted triphenyl phosphine (80°-90° C.) in the amount of 5.5 g was charged to a glass reactor equipped with a reflux condenser, mechanical stirrer, a water-cooled Dean-Stark collector having a heated throat, and a fritted glass tube for introduction of gas below the surface of the reactor contents. Palladous acetate (1.4 g) was stirred into the warm reactor with oxygen slowly bubbling through the triphenyl phosphine until dissolved forming a dark green solution. While maintaining the melt at 60°-90° C., lauric acid (95 g) was introduced to provide a solution of the palladium-phosphine complex. Lead acetate (4.0 g) was then stirred into the clear, dark green, homogeneous solution. The toluene (30 g) was then added, same being conveniently miscible with the preformed catalyst-lauric acid solution. The reaction mixture was heated to reflux while continuously introducing 200 ml/min oxygen. After an induction period of about 1.5 hr of continued oxygenating and heating at reflux, the temperature was raised from 90° to 150° C. in about an hour and then to 160° C. as benzyl laurate (BZL) built up to about 15% wt/wt in the reaction mixture. The reaction mixture remained essentially homogeneous but initially quickly turned from a dark green color, transiently to red and then to a permanent black. The black coloration is due to an equilibrium catalytic amount of colloidally dispersed palladium which in the course of the reaction forms soluble PdII. As reaction proceeded, the water of reaction was continuously removed by collection in the Dean-Stark tube. The reaction was conducted under the conditions noted for about 3 additional hours resulting in the formation of approximately 40% wt/wt benzyl laurate (BZL). Conversion of toluene amounted to 50% whereas the reaction was selective at 96% BZL. Only 2.14 g of loss as CO2 was observed equivalent to 2.1% loss TOL.

reactant | triphenyl phosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | acetate | 1.4 g | C(C)(=O)[O-]
reactant | oxygen | O=O | O2
reactant | lauric acid | 95 g | C(CCCCCCCCCCC)(=O)O | C12H24O2
reactant | Lead acetate | 4.0 g | C(C)(=O)[O-].[Pb+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | toluene | 30 g | C1(=CC=CC=C1)C | C7H8
product | benzyl laurate | approximately 40% | C(CCCCCCCCCCC)(=O)OCC1=CC=CC=C1 | C19H30O2
